US07235572B2
In analogy to the procedure described in example 2 c], {3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain {3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid as off-white solid.

reactant | {3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C27H27F3N2O3S
reactant | LiOH | [Li+].[OH-]
product | {3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid | CC1=CN(C2=CC(=CC=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC(=O)O | C23H19F3N2O3S
